US03940395
In the same manner, 4,6-dichloro-2-phenylpyrimidine is reacted with 3-methoxypropylamine to produce 4-chloro-6-(3-methoxypropylamino)-2-phenylpyrimidine, which is then reacted with p-chlorothiophenol to afford 4-(4-chlorophenylthio)-6-[(3-methoxypropyl)amino]-2-phenylpyrimidine.

reactant | 4,6-dichloro-2-phenylpyrimidine | ClC1=NC(=NC(=C1)Cl)C1=CC=CC=C1 | C10H6Cl2N2
reactant | 3-methoxypropylamine | COCCCN | C4H11NO
product | 4-chloro-6-(3-methoxypropylamino)-2-phenylpyrimidine | ClC1=NC(=NC(=C1)NCCCOC)C1=CC=CC=C1 | C14H16ClN3O
